US07683067B2
2-Hydroxy-3-[6-(2-morpholin-4-ylethoxy)pyrimidin-4-yl]-1H-indole-6-carbonitrile hydrochloride
A mixture of 4-{2-[(6-chloropyrimidin-4-yl)oxy]ethyl}morpholine (0.116 g, 0.47 mmol), 2-oxoindoline-6-carbonitrile (0.075 g, 0.47 mmol) and cesium carbonate (0.46 g, 1.42 mmol) in butyronitrile (3 mL), was heated in a microwave oven at 160° C. for 10 min. The crude product was purified using preparative HPLC (XTerra®PrepMS C8 column 10 μm, 30×150 mm; 0.1 M NH4OAc buffer/acetonitrile, (80:20-20:80), as the eluent). The acetonitrile was evaporated and the remaining aqueous phase was extracted with chloroform and evaporated in vacuo to give a yellow solid. The solid was dissolved in dichloromethane/methanol, (9:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting yellow crystals were collected by filtration, washed with diethyl ether, and dried to obtain 0.036 g (17% yield) of the title compound: 1H NMR (D2O, 400 MHz) δ 8.31 (s, 1H), 7.15 (dd, J=8, 2 Hz, 1H), 6.96 (d, J=8 Hz, 1H), 6.93 (d, J=2 Hz, 1H), 6.01 (s, 1H), 4.67 (m, 2H), 4.17 (m, 2H), 3.94 (m, 2H), 3.75 (m, 2H), 3.66 (m, 2H), 3.40 (m, 2H); MS (ESP) m/z 366 (M++1).

reactant | 4-{2-[(6-chloropyrimidin-4-yl)oxy]ethyl}morpholine | 0.47 mmol, 0.116 g | ClC1=CC(=NC=N1)OCCN1CCOCC1 | C10H14ClN3O2
reactant | 2-oxoindoline-6-carbonitrile | 0.47 mmol, 0.075 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | cesium carbonate | 1.42 mmol, 0.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | Cl | ClH
solvent | butyronitrile | 3 mL | C(CCC)#N | C4H7N
solvent | dichloromethane methanol | ClCCl.CO
solvent | diethyl ether | 1 M | C(C)OCC | C4H10O
product | 2-Hydroxy-3-[6-(2-morpholin-4-ylethoxy)pyrimidin-4-yl]-1H-indole-6-carbonitrile hydrochloride | 0.036 g, 17% yield | Cl.OC=1NC2=CC(=CC=C2C1C1=NC=NC(=C1)OCCN1CCOCC1)C#N | InChI=1S/C19H19N5O3.ClH/c20-11-13-1-2-14-15(9-13)23-19(25)18(14)16-10-17(22-12-21-16)27-8-5-24-3-6-26-7-4-24;/h1-2,9-10,12,23,25H,3-8H2;1H
